US08256434B2
vinyltoluene.
Ethyl para-hydroxybenzoate (E 214) and propyl para-hydroxybenzoate (E 216) and their sodium compounds (E 2 15 and E 2 17) up to 5 grams per kilogram of product calculated as benzoic acid on a dry weight basis

reactant | Ethyl para-hydroxybenzoate | OC1=CC=C(C(=O)OCC)C=C1 | C9H10O3
reactant | propyl para-hydroxybenzoate | OC1=CC=C(C(=O)OCCC)C=C1 | C10H12O3
reactant | sodium | [Na] | Na
reactant | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
product | vinyltoluene | C(=C)C1=C(C=CC=C1)C | C9H10
